US09108938B2
2,3-Dichloro-N-[2-(4-chloro-phenyl)-2-morpholin-4-yl-ethyl]-benzamide
From 2,3-dichlorobenzoic acid and 2-(4-chloro-phenyl)-2-morpholin-4-yl-ethylamine.

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 2-(4-chloro-phenyl)-2-morpholin-4-yl-ethylamine | ClC1=CC=C(C=C1)C(CN)N1CCOCC1 | C12H17ClN2O
product | 2,3-Dichloro-N-[2-(4-chloro-phenyl)-2-morpholin-4-yl-ethyl]-benzamide | ClC1=C(C(=O)NCC(N2CCOCC2)C2=CC=C(C=C2)Cl)C=CC=C1Cl | C19H19Cl3N2O2
